US04582909
A solution of 5,6-dihydro-4H-pyrrolo [3,2,1-ij]-quinoline-2,4(1H)-dione (1.87 g, 0.01 mole) in ethanol (10 ml) is treated with a drop of concentrated hydrochloric acid. The mixture is refluxed 24 hours (or until the dione starting material can no longer be detected by thin layer chromatography). The solution is cooled and concentrated at reduced pressure. The product is purified by flash chromatography to yield 1,2,3,4-tetrahydro-2-oxo-8-quinoline acetic acid ethyl ester.

reactant | 5,6-dihydro-4H-pyrrolo [3,2,1-ij]-quinoline-2,4(1H)-dione | 0.01 mole, 1.87 g | C1C(N2C(CCC3=CC=CC1=C23)=O)=O | C11H9NO2
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 1,2,3,4-tetrahydro-2-oxo-8-quinoline acetic acid ethyl ester | C(C)OC(CC=1C=CC=C2CCC(NC12)=O)=O | C13H15NO3
